US05034517
Preparation of 2,6-dideoxy-2-fluoro-L-talopyranose
Methy 2,6-dideoxy-2-fluoro-α-L-talopyranoside (21 mg) as prepared in Example 2 (4) given hereinbefore was dissolved in 1 ml of a mixture of 3N HCl-75% trifluoroacetic acid-water (the concentration of HCl in the whole mixture was 3N), and the resulting solution was heated at 60° C. for 1.5 hours to effect the hydrolysis. The reaction solution was then concentrated under reduced pressure to a smaller volume and the concentrated solution was admixed with a volume of water and azeotropically distilled. The residual solution was then concentrated to dryness to give 18 mg (93%) of the titled compound as a colorless solid. Specific rotation [α]D25 -21° (c 1, dioxane-water, 4:1).

reactant | Methy 2,6-dideoxy-2-fluoro-α-L-talopyranoside | 21 mg | F[C@H]1[C@H](OC)O[C@H]([C@H]([C@H]1O)O)C | C7H13FO4
solvent | HCl | 3N | Cl | ClH
product | 2,6-dideoxy-2-fluoro-L-talopyranose | 18 mg, 93% | F[C@H]1C(O)O[C@H]([C@H]([C@H]1O)O)C | C6H11FO4
